US05994312
(RS)-N-Acetyl-[b-(2-pyridyl)]alanine
A solution of sodium methoxide (65.8 g, 1.22 mol) in methanol (300 ml) was treated portionwise with diethylacetamidomalonate (132.3 g, 0.61 mol) maintaining a temperature of ca. 45° C. The mixture was then heated under reflux for 15 min. The mixture was cooled to 50° C. then treated slowly with a suspension of 2-chloromethylpyridine hydrochloride (100 g, 0.61 mol), the pink suspension was then heated under reflux for a further 6 h. Water (500 ml) was added followed by 10M sodium hydroxide (122 ml, 1.22 mol) and the pH was maintained at ca. 11 while heating the mixture at 70° C. overnight. The mixture was cooled to RT and the methanol removed in vacuo. The aqueous residue was washed with ethyl acetate (2×500 ml), then acidified to pH 5 and further washed with ethyl acetate (2×500 ml), before evaporating in vacuo to provide a semi-solid. The residue was triturated with hot ethanol (500 ml) and the sodium chloride removed by filtration. The filtrate was then evaporated in vacuo and the residue crystallised from methanol-ethyl acetate to provide the title compound (70 g, 66%) as a yellow solid.

reactant | sodium methoxide | 1.22 mol, 65.8 g | C[O-].[Na+]
reactant | diethylacetamidomalonate | 0.61 mol, 132.3 g | C(C)C(C(=O)NC(C(=O)[O-])C(=O)[O-])CC
reactant | 2-chloromethylpyridine hydrochloride | 0.61 mol, 100 g | Cl.ClCC1=NC=CC=C1
reactant | sodium hydroxide | 1.22 mol, 10M, 122 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | Water | 500 ml | O | H2O
product | (RS)-N-Acetyl-[b-(2-pyridyl)]alanine | 70 g, 66% | C(C)(=O)NC(CC1=NC=CC=C1)C(=O)O | C10H12N2O3
